US07732463B2
Chloro-oxo-acetic acid methyl ester (1.37 g, 11.2 mmol) was added to a stirred solution of 1-tert-butoxycarbonyl-4-[2-(4-chloro-phenylsulfanyl)-5-trifluoromethyl-phenyl]-piperidine-4-ol (0.98 g, 2.0 mmol) and dimethyl-pyridin-4-yl-amine (DMAP, 0.44 g, 3.6 mmol) in dry acetonitrile (6.4 mL) at 0° C. under argon. The reaction mixture was allowed to reach room temperature and then stirred overnight. Ethyl acetate (40 mL) was added and the precipitated salts were removed by filtration through celite. The organic phase was washed with saturated aqueous sodium bicarbonate (40 mL), saturated aqueous sodium chloride (40 mL), and dried over magnesium sulfate. The volatiles were evaporated off, and the crude material was dried in vacuo. This material was dissolved in dry toluene (13 mL) under argon. Tri-n-butyl tin hydride (0.81 g, 3.0 mmol) and 2-[(cyano-dimethyl-methyl)-azo]-2-methyl-propionitrile (AIBN, 82 mg, 0.5 mmol) were added. The solution was stirred under argon at 90° C. for 3.5 h. The solvent was evaporated, and the crude material was purified by chromatography on silica gel (eluent: ethyl acetate/heptane 1:9) to produce 4-[2-(4-chloro-phenylsulfanyl)-5-trifluoromethyl-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as a clear oil (0.77 g, 82%). This oil was dissolved in methanol (8 mL) and hydrogen chloride in diethyl ether (2M, 8 mL) was added at 0° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The solvent was evaporated off and ethyl acetate (25 mL) was added. The organic phase was extracted with aqueous sodium hydroxide (2M, 8 mL) and washed with saturated aqueous sodium chloride (10 mL), dried over magnesium sulfate, and the solvent was evaporated off. This material (588 mg) was dissolved in ethyl acetate (2.2 mL) and fumaric acid (183 mg, 1.58 mmol) dissolved in hot ethanol (96%, 4.4 mL) was added. The target compound was collected as a white solid. LC/MS (m/z) 372.1 (MH+); RT=2.54; purity (UV, ELSD): 97%, 100%; yield: 0.187 g (19%).

reactant | Chloro-oxo-acetic acid methyl ester | 11.2 mmol, 1.37 g | COC(C(=O)Cl)=O | C3H3ClO3
reactant | 1-tert-butoxycarbonyl-4-[2-(4-chloro-phenylsulfanyl)-5-trifluoromethyl-phenyl]-piperidine-4-ol | 2.0 mmol, 0.98 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC(=C1)C(F)(F)F)SC1=CC=C(C=C1)Cl | C23H25ClF3NO3S
reactant | Tri-n-butyl tin hydride | 3.0 mmol, 0.81 g | C(CCC)[SnH](CCCC)CCCC
reactant | 2-[(cyano-dimethyl-methyl)-azo]-2-methyl-propionitrile | 0.5 mmol, 82 mg | C(#N)C(N=NC(C#N)(C)C)(C)C | C8H12N4
catalyst | dimethyl-pyridin-4-yl-amine | 3.6 mmol, 0.44 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 6.4 mL | C(C)#N | C2H3N
solvent | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 4-[2-(4-chloro-phenylsulfanyl)-5-trifluoromethyl-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.77 g, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC(=C1)C(F)(F)F)SC1=CC=C(C=C1)Cl | C23H25ClF3NO2S
